US07408060B2
rac-5-{2-Ethinyl-2-hydroxy-3-[1-(2-fluoro-5-trifluoromethylphenyl)-cyclopropyl]-propionylamino}phthalide 1
Ethinyl magnesium bromide (6 ml, 0.5 M in tetrahydrofuran) was added to an ice-cold solution that consists of 5-{3-[1-(2-fluoro-5-trifluoromethylphenyl)-cyclopropyl]-2-oxopropionylamino}phthalide (632 mg) in THF (4 ml). The reaction solution under argon was allowed to come to room temperature within 3 hours. Then, the reaction mixture was poured into ice-cold, saturated ammonium chloride solution. It was extracted with ethyl acetate. The combined organic phases were washed with saturated sodium chloride solution and dried on sodium sulfate. The crude product that is obtained was chromatographed on silica gel. 2.2 g of product was obtained.

reactant | Ethinyl magnesium bromide | 0.5 M, 6 ml | C(#C)[Mg]Br
reactant | 5-{3-[1-(2-fluoro-5-trifluoromethylphenyl)-cyclopropyl]-2-oxopropionylamino}phthalide | 632 mg | FC1=C(C=C(C=C1)C(F)(F)F)C1(CC1)CC(C(=O)NC=1C=C2COC(=O)C2=CC1)=O | C21H15F4NO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | rac-5-{2-Ethinyl-2-hydroxy-3-[1-(2-fluoro-5-trifluoromethylphenyl)-cyclopropyl]-propionylamino}phthalide | 2.2 g | C(#C)C(C(=O)NC=1C=C2COC(=O)C2=CC1)(CC1(CC1)C1=C(C=CC(=C1)C(F)(F)F)F)O | C23H17F4NO4
